US20010006969A1
2-Allylamino-4-methylamino-7-propylthieno[3,2-d] pyrimidine
50 mg (0.21 mmol) of 2-chloro-4-methylamino-7-propylthieno[ 3,2-d]pyrimidine and 189 mg (3.31 mmol) of allylamine were heated in a sealed tube at 160° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, followed by adding a saturated aqueous sodium hydrogen carbonate solution thereto and extraction with ethyl acetate (50 ml×2). After the organic layer was washed with brine and dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=¼) to give 37 mg (yield: 68.5%) of the title compound.

reactant | 2-chloro-4-methylamino-7-propylthieno[ 3,2-d]pyrimidine | 0.21 mmol, 50 mg | ClC=1N=C(C2=C(N1)C(=CS2)CCC)NC | C10H12ClN3S
reactant | allylamine | 3.31 mmol, 189 mg | C(C=C)N | C3H7N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-Allylamino-4-methylamino-7-propylthieno[3,2-d] pyrimidine | 37 mg, yield: 68.5% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)CCC)NC | C13H18N4S
